US05977178
A solution of (2R)-2-(formylamino)-3-(2-thienyl)propionic acid (3.58 g, 18.0 mmol) in tetrahydrofuran (50 ml) was added dropwise to a suspension of sodium borohydride in tetrahydrofuran (50 ml), which was cooled to 7-12° C. (inside temperature). After the addition was finished, a solution of iodine (4.57 g, 18.0 mmol) in tetrahydrofuran (100 ml) was added dropwise. The reaction mixture was heated to reflux for 16 h. It was cooled to 0° C. Methanol (200 ml) was added dropwise. The solvent was removed in vacuo. The residue was dissolved in a freshly prepared 20% aqueous sodium hydroxide solution (200 ml). The aqueous phase was extracted with tert-butyl methyl ether (4×150 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo to give 3.26 g of crude (2R)-2-methylamino-3-(2-thienyl)propan-1-ol, which was used for the following step.

reactant | (2R)-2-(formylamino)-3-(2-thienyl)propionic acid | 18.0 mmol, 3.58 g | C(=O)N[C@@H](C(=O)O)CC=1SC=CC1 | C8H9NO3S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | iodine | 18.0 mmol, 4.57 g | II | I2
reactant | Methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (2R)-2-methylamino-3-(2-thienyl)propan-1-ol | 3.26 g | CN[C@@H](CO)CC=1SC=CC1 | C8H13NOS
